US04499094
Operations are carried out as for Example 19, starting from 2.5 g of 4-phenyl quinazoline 2-carboxylic acid, 10 ml of thionyl chloride 25 ml of toluene and 25 ml of diethylamine. 1.27 g of N,N-diethyl 4-phenyl quinazoline 2-carboxamide, melting at 101° C., is obtained.

reactant | 4-phenyl quinazoline 2-carboxylic acid | 2.5 g | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)C(=O)O | C15H10N2O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 25 ml | C(C)NCC | C4H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl 4-phenyl quinazoline 2-carboxamide | 1.27 g | C(C)N(C(=O)C1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)CC | C19H19N3O
